R1 ( vdd! net88)  R=2.1E5
T2 ( net88 net26 0 0)  nfet  L=8.02E-6 W=6.30E-6
T3 ( net18 net26 0 0)  nfet  L=8.02E-6 W=6.30E-6
T4 ( vdd! net88 net26 0)  nfet  L=8.02E-6 W=6.30E-6
C5 (net112 net47) C=1.1E-6
R6 ( net78 net97)  R=3.7E6
T7 ( net97 net3 0 0)  nfet  L=3.91E-6 W=5.77E-6
T8 ( net103 net3 0 0)  nfet  L=3.91E-6 W=5.77E-6
T9 ( net34 net97 net103 0)  nfet  L=3.91E-6 W=5.77E-6
T10 (net108 net45 net45 0) pfet L=9.28E-6 W=9.67E-6
R11 (net30 net17) R=1.4E0
T12 (net70 net36 net36 0) pfet L=3.52E-6 W=6.20E-6
T13 (vdd! net82 net82 0) nfet L=9.30E-6 W=2.59E-6
R14 (0 net18) R=8.1E1
C15 (net80 net53) C=1.2E-5
R16 (net100 net105) R=2.6E1
R17 (net38 net19) R=6.7E2
C18 (net13 net111) C=3.5E-8
R19 (net36 vdd!) R=7.4E4
T20 (net94 net67 net67 0) pfet L=5.45E-6 W=7.03E-6
C21 (net4 0) C=5.2E-12
T22 (net9 net36 net36 0) pfet L=0.81E-6 W=8.34E-6
R23 (net1 vdd!) R=7.1E6
T24 (net75 net53 net53 0) nfet L=2.42E-6 W=0.39E-6
C25 (net6 net33) C=3.9E-11
T26 (net30 vdd! vdd! 0) nfet L=4.17E-6 W=3.35E-6
R27 (net25 net16) R=4.7E2
C28 (net27 net21) C=6.4E-11
T29 (net94 net40 net40 0) pfet L=3.77E-6 W=9.70E-6
R30 (net12 net58) R=6.9E1
T31 (net76 net76 net76 0) pfet L=1.49E-6 W=1.27E-6
T32 (net86 net102 net102 0) pfet L=7.32E-6 W=9.23E-6
T33 (net7 net43 net43 0) pfet L=6.84E-6 W=2.65E-6
T34 (net45 vdd! vdd! 0) pfet L=1.03E-6 W=6.23E-6
T35 (0 vdd! vdd! 0) pfet L=4.73E-6 W=7.92E-6
C36 (net53 net109) C=3.8E-14
C37 (net20 net35) C=4.6E-7
T38 (net113 net25 net25 0) nfet L=5.51E-6 W=6.07E-6
R39 (net50 0) R=3.9E5
R40 (net74 net34) R=0.5E6
T41 (net111 net5 net5 0) pfet L=5.93E-6 W=9.13E-6
R42 (net37 net30) R=3.4E5
C43 (vdd! net85) C=1.1E-6
R44 (net86 net87) R=7.3E1
T45 (net84 0 0 0) nfet L=5.99E-6 W=0.65E-6
C46 (net32 vdd!) C=1.6E-13
C47 (net86 net75) C=7.2E-10
T48 (net85 net14 net14 0) nfet L=8.56E-6 W=8.11E-6
R49 (net99 net41) R=2.6E5
T50 (vdd! net82 net82 0) nfet L=1.18E-6 W=9.20E-6
T51 (net27 net30 net30 0) pfet L=2.10E-6 W=0.72E-6
T52 (net38 net87 net87 0) pfet L=8.64E-6 W=7.65E-6
C53 (net102 net52) C=3.4E-6
T54 (net13 net5 net5 0) pfet L=1.85E-6 W=4.20E-6
T55 (net71 net104 net104 0) pfet L=4.47E-6 W=8.00E-6
R56 (net99 net113) R=4.5E2
R57 (vdd! net107) R=3.0E5
T58 (net43 net28 net28 0) pfet L=3.46E-6 W=8.57E-6
R59 (net102 net70) R=1.0E0
R60 (net105 net47) R=4.8E2
R61 (net34 net7) R=1.6E2
T62 (net48 net20 net20 0) pfet L=7.35E-6 W=7.82E-6
T63 (net113 net93 net93 0) nfet L=2.61E-6 W=5.53E-6
T64 (net70 net57 net57 0) nfet L=5.73E-6 W=5.39E-6
C65 (net37 net113) C=3.4E-14
T66 (vdd! net55 net55 0) nfet L=7.66E-6 W=3.67E-6
R67 (net94 net81) R=5.8E1
C68 (net85 net47) C=4.3E-8
R69 (net94 net54) R=6.5E0
T70 (net78 net32 net32 0) nfet L=8.54E-6 W=8.77E-6
T71 (net83 net90 net90 0) nfet L=6.87E-6 W=2.31E-6
C72 (0 net55) C=4.4E-5
C73 (net34 net80) C=6.8E-9
T74 (net59 net64 net64 0) nfet L=5.71E-6 W=8.46E-6
C75 (net24 vdd!) C=6.4E-11
R76 (net82 net29) R=7.9E0
T77 (net94 net95 net95 0) pfet L=1.07E-6 W=3.30E-6
C78 (net11 net100) C=8.0E-8
R79 (net18 0) R=9.6E4
R80 (net35 net28) R=8.8E2
R81 (net110 net85) R=1.3E6
T82 (net63 net24 net24 0) nfet L=1.60E-6 W=9.45E-6
T83 (net24 net85 net85 0) pfet L=0.97E-6 W=6.51E-6
T84 (net107 net71 net71 0) nfet L=5.90E-6 W=7.91E-6
R85 (net76 net50) R=9.2E1
T86 (net27 vdd! vdd! 0) pfet L=3.73E-6 W=6.38E-6
T87 (net59 net15 net15 0) nfet L=0.51E-6 W=1.95E-6
R88 (net110 net80) R=9.8E2
T89 (net51 0 0 0) nfet L=9.34E-6 W=3.87E-6
T90 (net86 net59 net59 0) nfet L=8.84E-6 W=5.71E-6
R91 (net110 net76) R=0.7E6
R92 (net46 net45) R=5.0E2
R93 (net28 net25) R=5.6E6
T94 (net44 net105 net105 0) pfet L=5.00E-6 W=1.70E-6
T95 (net51 net18 net18 0) pfet L=4.39E-6 W=8.75E-6
T96 (net63 net82 net82 0) pfet L=9.95E-6 W=2.04E-6
T97 (net41 net104 net104 0) nfet L=0.65E-6 W=4.67E-6
R98 (net25 net105) R=0.6E1
T99 (net55 net55 net55 0) pfet L=9.08E-6 W=0.99E-6
T100 (net101 net69 net69 0) nfet L=9.49E-6 W=4.53E-6
R101 (net68 net85) R=0.5E3
R102 (net16 net39) R=4.2E0
T103 (net41 net16 net16 0) pfet L=7.86E-6 W=5.03E-6
R104 (net93 net6) R=5.1E5
R105 (net20 net74) R=2.1E4
T106 (net18 vdd! vdd! 0) nfet L=5.75E-6 W=9.21E-6
T107 (net99 net45 net45 0) pfet L=3.35E-6 W=3.49E-6
T108 (net25 net72 net72 0) nfet L=1.38E-6 W=3.58E-6
T109 (net14 net13 net13 0) nfet L=5.20E-6 W=8.37E-6
R110 (net90 vdd!) R=4.3E4
R111 (0 net32) R=8.1E6
T112 (net16 net24 net24 0) pfet L=0.97E-6 W=9.40E-6
T113 (net98 net52 net52 0) pfet L=0.62E-6 W=9.33E-6
T114 (net63 net72 net72 0) pfet L=0.99E-6 W=4.22E-6
C115 (net10 net60) C=9.1E-9
R116 (vdd! net102) R=0.2E5
C117 (net74 net80) C=9.0E-9
T118 (vdd! net56 net56 0) pfet L=4.31E-6 W=5.10E-6
T119 (net111 net47 net47 0) nfet L=7.46E-6 W=2.27E-6
T120 (net54 net59 net59 0) pfet L=6.22E-6 W=0.80E-6
R121 (net98 net50) R=8.2E4
C122 (net41 net59) C=5.6E-7
C123 (net36 net39) C=8.0E-11
C124 (net73 vdd!) C=5.8E-6
C125 (net38 net45) C=3.9E-8
C126 (net108 net66) C=9.8E-10
T127 (vdd! net94 net94 0) pfet L=5.91E-6 W=7.91E-6
C128 (net50 net80) C=6.4E-12
R129 (net76 net55) R=2.9E1
R130 (net36 net107) R=1.1E6
C131 (net111 net23) C=1.3E-5
R132 (net107 0) R=3.5E0
T133 (net6 net5 net5 0) pfet L=0.73E-6 W=4.90E-6
T134 (net33 net56 net56 0) nfet L=3.48E-6 W=3.34E-6
R135 (net14 net93) R=4.4E2
T136 (0 net20 net20 0) nfet L=2.14E-6 W=2.02E-6
T137 (net75 net82 net82 0) nfet L=3.89E-6 W=1.40E-6
R138 (net59 net10) R=9.0E5
T139 (net28 net12 net12 0) nfet L=4.59E-6 W=2.84E-6
C140 (0 net2) C=2.3E-6
T141 (net90 net89 net89 0) pfet L=7.86E-6 W=8.89E-6
T142 (0 net40 net40 0) nfet L=4.23E-6 W=5.68E-6
R143 (net45 net105) R=9.3E3
T144 (net18 net89 net89 0) pfet L=7.01E-6 W=4.72E-6
T145 (net65 0 0 0) pfet L=1.34E-6 W=4.82E-6
T146 (net24 net69 net69 0) pfet L=5.57E-6 W=2.31E-6
T147 (0 net48 net48 0) pfet L=3.62E-6 W=8.09E-6
R148 (vdd! net47) R=5.1E6
T149 (net52 net17 net17 0) pfet L=6.32E-6 W=9.98E-6
T150 (net75 net71 net71 0) pfet L=8.42E-6 W=1.51E-6
T151 (net69 net108 net108 0) pfet L=3.77E-6 W=1.24E-6
R152 (net83 net19) R=5.1E2
R153 (net76 net21) R=5.2E1
C154 (0 net95) C=0.1E-8
T155 (net58 net71 net71 0) pfet L=0.77E-6 W=7.37E-6
C156 (net54 net79) C=1.6E-9
T157 (net107 net31 net31 0) pfet L=5.40E-6 W=7.64E-6
T158 (net83 net69 net69 0) pfet L=6.84E-6 W=0.85E-6
C159 (net21 net105) C=4.7E-10
T160 (vdd! net36 net36 0) nfet L=2.98E-6 W=7.97E-6
R161 (net5 net36) R=6.3E2
T162 (net109 net6 net6 0) nfet L=0.90E-6 W=8.74E-6
T163 (vdd! net109 net109 0) nfet L=1.48E-6 W=3.10E-6
T164 (net35 net39 net39 0) nfet L=8.42E-6 W=0.34E-6
T165 (net2 net33 net33 0) pfet L=1.66E-6 W=0.20E-6
R166 (net68 0) R=9.0E6
T167 (net49 net18 net18 0) nfet L=8.50E-6 W=7.30E-6
T168 (net82 net34 net34 0) pfet L=4.48E-6 W=8.59E-6
R169 (net6 net43) R=7.7E5
C170 (net33 net85) C=7.1E-10
T171 (net49 net12 net12 0) nfet L=2.12E-6 W=4.60E-6
T172 (net60 net56 net56 0) nfet L=5.07E-6 W=1.20E-6
R173 (net4 vdd!) R=3.2E4
T174 (net27 net52 net52 0) nfet L=4.89E-6 W=8.08E-6
R175 (net9 net82) R=2.2E0
T176 (net96 net29 net29 0) pfet L=1.92E-6 W=6.86E-6
C177 (net43 net27) C=6.0E-13
R178 (net52 net93) R=2.0E3
T179 (net29 net18 net18 0) nfet L=6.38E-6 W=5.83E-6
C180 (net72 net98) C=4.0E-5
R181 (net46 net50) R=1.4E6
C182 (net7 net108) C=0.4E-12
C183 (vdd! net105) C=2.1E-14
T184 (net41 net8 net8 0) nfet L=9.63E-6 W=1.68E-6
T185 (net46 0 0 0) pfet L=0.30E-6 W=8.09E-6
T186 (net6 net39 net39 0) pfet L=5.15E-6 W=3.22E-6
C187 (vdd! net62) C=2.3E-9
C188 (net33 net7) C=2.3E-12
T189 (net61 net15 net15 0) pfet L=2.18E-6 W=5.31E-6
R190 (net53 net59) R=7.9E1
T191 (net56 net47 net47 0) pfet L=4.80E-6 W=6.83E-6
R192 (vdd! net42) R=8.8E1
R193 (net36 net33) R=0.2E3
T194 (net5 net56 net56 0) nfet L=9.45E-6 W=5.41E-6
T195 (net110 net29 net29 0) pfet L=3.75E-6 W=6.53E-6
C196 (net71 net12) C=7.2E-9
T197 (net99 net9 net9 0) nfet L=2.81E-6 W=8.85E-6
R198 (net53 net67) R=7.4E3
R199 (net79 net44) R=5.3E2
R200 (net53 net28) R=5.5E4
T201 (net62 vdd! vdd! 0) pfet L=1.16E-6 W=9.70E-6
T202 (net21 net36 net36 0) pfet L=3.92E-6 W=1.78E-6
T203 (net71 net35 net35 0) nfet L=4.49E-6 W=1.78E-6
T204 (net54 net23 net23 0) pfet L=4.87E-6 W=9.48E-6
R205 (0 net39) R=2.9E0
R206 (net33 net11) R=2.8E3
T207 (net39 net85 net85 0) pfet L=0.33E-6 W=6.42E-6
R208 (net11 net4) R=7.1E6
R209 (net11 net17) R=2.9E2
T210 (net22 net84 net84 0) nfet L=9.79E-6 W=5.64E-6
C211 (0 net12) C=4.8E-8
T212 (net37 net28 net28 0) nfet L=2.81E-6 W=5.32E-6
T213 (net68 net62 net62 0) nfet L=4.28E-6 W=6.71E-6
R214 (net40 net36) R=2.6E1
T215 (net7 net6 net6 0) pfet L=0.20E-6 W=6.96E-6
T216 (net80 net31 net31 0) pfet L=6.29E-6 W=5.91E-6
T217 (net6 net75 net75 0) pfet L=5.81E-6 W=5.53E-6
T218 (net38 net80 net80 0) pfet L=3.86E-6 W=2.52E-6
T219 (net25 net83 net83 0) pfet L=1.94E-6 W=3.77E-6
C220 (net30 net67) C=8.7E-8
T221 (net17 net9 net9 0) nfet L=4.31E-6 W=0.31E-6
C222 (net67 net13) C=1.7E-11
R223 (net33 net10) R=3.8E0
T224 (0 net15 net15 0) nfet L=5.46E-6 W=7.14E-6
T225 (net67 vdd! vdd! 0) nfet L=1.28E-6 W=7.95E-6
C226 (net40 net51) C=3.2E-5
T227 (net52 net72 net72 0) nfet L=0.74E-6 W=8.66E-6
T228 (vdd! net59 net59 0) pfet L=10.00E-6 W=6.50E-6
C229 (net18 net11) C=3.5E-13
T230 (net16 net85 net85 0) nfet L=8.59E-6 W=6.50E-6
C231 (net76 net106) C=8.7E-8
R232 (vdd! net105) R=1.8E3
T233 (net20 vdd! vdd! 0) pfet L=5.23E-6 W=1.28E-6
T234 (net43 net85 net85 0) nfet L=9.39E-6 W=5.94E-6
T235 (net13 net78 net78 0) nfet L=2.06E-6 W=6.97E-6
R236 (net14 net69) R=2.4E4
T237 (net13 net71 net71 0) pfet L=0.60E-6 W=7.23E-6
T238 (net80 net10 net10 0) nfet L=0.83E-6 W=6.80E-6
C239 (net57 net75) C=3.0E-10
T240 (net38 net107 net107 0) nfet L=0.74E-6 W=9.59E-6
T241 (net55 net28 net28 0) pfet L=5.10E-6 W=1.36E-6
R242 (net20 net49) R=2.0E2
T243 (0 net75 net75 0) nfet L=1.28E-6 W=0.43E-6
C244 (net91 net112) C=8.9E-7
C245 (net78 net68) C=5.2E-11
T246 (net8 0 0 0) nfet L=0.41E-6 W=0.25E-6
R247 (net62 vdd!) R=9.8E5
T248 (net5 net11 net11 0) nfet L=1.68E-6 W=0.37E-6
T249 (net67 net33 net33 0) pfet L=8.31E-6 W=5.78E-6
C250 (0 net53) C=1.1E-7
T251 (net7 net86 net86 0) nfet L=3.96E-6 W=8.19E-6
T252 (net13 net25 net25 0) nfet L=9.12E-6 W=2.89E-6
C253 (net61 net10) C=1.0E-10
C254 (net29 net51) C=7.5E-10
T255 (net71 net33 net33 0) pfet L=9.75E-6 W=5.55E-6
R256 (net77 net105) R=7.2E0
R257 (net25 vdd!) R=5.0E4
T258 (net87 net67 net67 0) nfet L=4.32E-6 W=7.49E-6
R259 (net42 net31) R=3.5E6
T260 (vdd! net38 net38 0) pfet L=6.98E-6 W=5.25E-6
T261 (net43 net30 net30 0) nfet L=1.07E-6 W=1.45E-6
R262 (net110 net89) R=5.1E2
R263 (net109 net33) R=4.0E5
T264 (net8 net25 net25 0) pfet L=7.06E-6 W=1.34E-6
T265 (net22 net12 net12 0) pfet L=9.23E-6 W=3.78E-6
C266 (net37 net35) C=1.8E-10
T267 (net34 net53 net53 0) pfet L=2.84E-6 W=0.69E-6
T268 (net105 net54 net54 0) pfet L=3.46E-6 W=4.06E-6
T269 (net5 net64 net64 0) nfet L=2.42E-6 W=2.55E-6
C270 (net86 net82) C=7.6E-8
C271 (net52 net55) C=3.6E-11
T272 (0 net25 net25 0) nfet L=5.60E-6 W=2.89E-6
T273 (net93 0 0 0) pfet L=4.44E-6 W=7.19E-6
T274 (net74 net94 net94 0) pfet L=9.79E-6 W=5.47E-6
T275 (net42 net101 net101 0) nfet L=0.22E-6 W=1.66E-6
C276 (net63 net49) C=7.2E-13
C277 (net8 net111) C=2.4E-12
C278 (0 net25) C=9.1E-6
C279 (net68 net43) C=3.8E-7
T280 (net48 net98 net98 0) nfet L=8.39E-6 W=9.62E-6
R281 (net64 net37) R=2.6E4
R282 (net60 net81) R=5.6E6
T283 (vdd! net5 net5 0) pfet L=2.46E-6 W=3.31E-6
R284 (net104 net109) R=1.1E3

