T1 (vdd! net70 net70 0) nfet L=3.37E-6 W=7.74E-6
R2 ( net45 net31)  R=3.2E3
T3 ( net31 net59 0 0)  nfet  L=5.27E-6 W=4.40E-6
T4 ( net66 net59 0 0)  nfet  L=5.27E-6 W=4.40E-6
T5 ( vdd! net31 net59 0)  nfet  L=5.27E-6 W=4.40E-6
R6 (net80 net35) R=2.5E3
R7 ( net78 net37)  R=7.5E5
T8 ( net37 net39 vdd! vdd!)  pfet  L=4.70E-6 W=4.00E-6
T9 ( net7 net39 vdd! vdd!)  pfet  L=4.70E-6 W=4.00E-6
T10 ( 0 net37 net39 vdd!)  pfet  L=4.70E-6 W=4.00E-6
C11 (net64 net51) C=3.7E-11
C12 (net78 net65) C=3.2E-6
T13 (net17 net34 net34 0) nfet L=4.01E-6 W=5.18E-6
T14 (net70 net63 net63 0) nfet L=0.56E-6 W=3.81E-6
T15 (net78 net38 net38 0) nfet L=1.25E-6 W=6.17E-6
C16 (net18 net36) C=0.2E-5
T17 (vdd! net29 net29 0) nfet L=6.96E-6 W=1.08E-6
R18 (net40 net27) R=6.2E6
C19 (net5 net19) C=1.3E-9
T20 (net53 net57 net57 0) nfet L=7.06E-6 W=5.62E-6
C21 (net78 net62) C=0.9E-12
C22 (net78 net1) C=8.1E-8
C23 (net12 net32) C=5.8E-12
T24 (net77 vdd! vdd! 0) pfet L=8.74E-6 W=9.68E-6
R25 (net45 net38) R=8.6E1
T26 (0 vdd! vdd! 0) nfet L=5.58E-6 W=0.49E-6
T27 (net26 net12 net12 0) nfet L=6.21E-6 W=2.46E-6
C28 (net30 net51) C=8.8E-7
C29 (net47 0) C=8.0E-5
T30 (net53 net47 net47 0) nfet L=7.71E-6 W=2.18E-6
T31 (0 net77 net77 0) pfet L=9.73E-6 W=7.19E-6
C32 (net53 net32) C=9.8E-14
T33 (net57 net79 net79 0) pfet L=4.05E-6 W=7.96E-6
T34 (net7 net19 net19 0) nfet L=5.26E-6 W=4.45E-6
T35 (vdd! net57 net57 0) nfet L=8.80E-6 W=4.31E-6
T36 (net10 net43 net43 0) pfet L=4.99E-6 W=6.93E-6
R37 (net25 net52) R=6.3E2
T38 (net78 net35 net35 0) pfet L=7.72E-6 W=8.68E-6
T39 (net22 net63 net63 0) nfet L=3.75E-6 W=9.24E-6
T40 (net47 net51 net51 0) nfet L=4.78E-6 W=6.98E-6
R41 (net58 net60) R=8.4E2
T42 (net18 net40 net40 0) pfet L=7.23E-6 W=1.23E-6
R43 (net11 net7) R=9.8E5
R44 (net40 net63) R=3.2E3
C45 (net41 net75) C=8.7E-5
C46 (0 net19) C=5.7E-5
T47 (0 net4 net4 0) nfet L=3.08E-6 W=9.35E-6
T48 (net24 net19 net19 0) pfet L=6.76E-6 W=8.23E-6
R49 (net33 net20) R=2.3E2
T50 (0 net8 net8 0) nfet L=0.64E-6 W=7.60E-6
T51 (net48 net5 net5 0) nfet L=3.47E-6 W=3.75E-6
T52 (net28 net21 net21 0) nfet L=3.10E-6 W=8.19E-6
R53 (net7 net30) R=5.9E0
T54 (net23 net14 net14 0) pfet L=4.79E-6 W=6.10E-6
R55 (vdd! net49) R=0.1E5
T56 (0 net63 net63 0) nfet L=6.87E-6 W=4.80E-6
T57 (net18 net79 net79 0) pfet L=2.20E-6 W=5.81E-6
T58 (net74 net3 net3 0) nfet L=3.77E-6 W=9.95E-6
C59 (net64 net24) C=9.8E-5
T60 (0 net43 net43 0) pfet L=2.57E-6 W=3.89E-6
T61 (net1 net9 net9 0) nfet L=9.00E-6 W=1.31E-6
R62 (net24 net51) R=9.1E1
R63 (net46 net72) R=7.4E1
T64 (net66 net20 net20 0) nfet L=0.87E-6 W=6.14E-6
T65 (net16 net71 net71 0) nfet L=8.99E-6 W=5.97E-6
T66 (net7 net16 net16 0) pfet L=5.49E-6 W=5.24E-6
T67 (0 net69 net69 0) nfet L=8.46E-6 W=2.70E-6
R68 (net65 net73) R=5.6E0
R69 (vdd! net2) R=9.0E3
T70 (net35 vdd! vdd! 0) nfet L=6.96E-6 W=3.82E-6
R71 (net56 net10) R=1.0E5
T72 (net1 net9 net9 0) nfet L=6.06E-6 W=8.77E-6
C73 (net73 vdd!) C=0.6E-13
C74 (net16 net38) C=6.7E-11
T75 (net24 net67 net67 0) nfet L=9.50E-6 W=5.55E-6
R76 (vdd! net78) R=4.8E1
T77 (net30 0 0 0) pfet L=6.51E-6 W=9.72E-6
R78 (net22 net47) R=7.4E0
T79 (net57 net55 net55 0) nfet L=8.41E-6 W=4.80E-6
C80 (vdd! net63) C=5.2E-10
T81 (net75 net44 net44 0) pfet L=6.20E-6 W=6.62E-6
T82 (net79 vdd! vdd! 0) nfet L=5.03E-6 W=0.75E-6
T83 (net7 net11 net11 0) nfet L=2.20E-6 W=6.31E-6
T84 (net61 net35 net35 0) nfet L=8.09E-6 W=3.05E-6
C85 (net67 net56) C=7.3E-13
T86 (net7 net12 net12 0) pfet L=6.06E-6 W=7.27E-6
T87 (net6 net73 net73 0) pfet L=1.04E-6 W=0.78E-6
C88 (net43 net8) C=7.8E-8
C89 (net75 net47) C=8.1E-5
T90 (0 net42 net42 0) nfet L=5.58E-6 W=5.08E-6
C91 (net19 net74) C=1.3E-5
T92 (net2 vdd! vdd! 0) nfet L=5.57E-6 W=8.13E-6

